US08492582B2
To a methanol (5.0 mL) solution of the obtained tert-butyl 2-(2-(benzyloxy)-5-((1-methylpiperidin-4-yl)oxy)benzamido)-4-phenylbenzoate, 10% palladium-carbon (0.11 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours and 40 minutes. The insoluble substance was removed by filtration, and the obtained residue was purified by silica gel column chromatography [eluent: 100-90% chloroform/methanol] to obtain 0.13 g of tert-butyl 2-(2-hydroxy-5-((1-methylpiperidin-4-yl)oxy)benzamido)-4-phenylbenzoate as a light yellow solid.

reactant | tert-butyl 2-(2-(benzyloxy)-5-((1-methylpiperidin-4-yl)oxy)benzamido)-4-phenylbenzoate | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OC1CCN(CC1)C | C37H40N2O5
catalyst | palladium-carbon | 0.11 g | [C].[Pd]
solvent | methanol | 5.0 mL | CO | CH4O
product | tert-butyl 2-(2-hydroxy-5-((1-methylpiperidin-4-yl)oxy)benzamido)-4-phenylbenzoate | 0.13 g | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OC1CCN(CC1)C | C30H34N2O5
